US06987114B1
1-(Quinolin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2-chloromethyl quinoline were reacted by the same way with the example 1 to obtain the titled compound (125 mg, yield: 29.0%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 2-chloromethyl quinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
product | 1-(Quinolin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 125 mg, yield: 29.0% | N1=C(C=CC2=CC=CC=C12)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C25H25N3O2S
